US07662811B2
Step 7: Preparation of 2-((R)-3-oxo-1-tosyl-1,2,3,4-tetrahydropyrazin-2-yl)-N—((R)-6-(2-(piperidin-1-yl)ethyl)-1,2,3,4-tetrahydronaphthalen-1-yl)acetamide:
A solution of (R)-2-(3-oxo-1-tosyl-1,2,3,4-tetrahydropyrazin-2-yl)acetic acid (310 mg, 1.0 mmol), crude (R)-6-(2-(piperidin-1-yl)ethyl)-1,2,3,4-tetrahydronaphthalen-1-amine (310 mg, 1.2 mmol), HOBt (135 mg, 1.0 mmol) and EDCI (191 mg, 1.0 mmol) in 1 mL of DMF was stirred overnight at room temperature. After quenching with sat. NaHCO3 solution, the reaction mixture was extracted with EtOAc. The combined organic phase was washed brine, dried over Na2SO4, and evaporated in vacuo. Flash chomatography (SiO2, EtOAc/MeOH=100:15 to 100:20 to EtOAc/2.0M NH3 in MeOH=100:10 to 100:15 to 100:20 ) gave the desired product as a white solid. MS: 551.2 (M+1).

reactant | (R)-2-(3-oxo-1-tosyl-1,2,3,4-tetrahydropyrazin-2-yl)acetic acid | 1.0 mmol, 310 mg | O=C1[C@H](N(C=CN1)S(=O)(=O)C1=CC=C(C)C=C1)CC(=O)O | C13H14N2O5S
reactant | (R)-6-(2-(piperidin-1-yl)ethyl)-1,2,3,4-tetrahydronaphthalen-1-amine | 1.2 mmol, 310 mg | N1(CCCCC1)CCC=1C=C2CCC[C@H](C2=CC1)N | C17H26N2
reactant | HOBt | 1.0 mmol, 135 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 1.0 mmol, 191 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-((R)-3-oxo-1-tosyl-1,2,3,4-tetrahydropyrazin-2-yl)-N—((R)-6-(2-(piperidin-1-yl)ethyl)-1,2,3,4-tetrahydronaphthalen-1-yl)acetamide | O=C1[C@H](N(C=CN1)S(=O)(=O)C1=CC=C(C)C=C1)CC(=O)N[C@@H]1CCCC2=CC(=CC=C12)CCN1CCCCC1 | C30H38N4O4S
